US07342020B2
N-hydroxy-3-[4-(4-fluorophenyl)piperazine-1-sulfonyl]-2-isobutylpropionamide
To a solution of N-(2,4-dimethoxybenzyloxy)-3-[4-(4-fluorophenyl)piperazine-1-sulfonyl]-2-isobutylpropionamide (220 mg) in dichloromethane (4 ml) was added trifluoroacetic acid (200 μl) and triethylsilane (145 μl). The mixture was stirred at room temperature for 15 minutes, evaporated in vacuo and the residue was purified on silica gel (eluant:dichloromethane-ether-methanol (8.0:20:0.5) to dichloromethane-methanol (80:20) to give the title compound (88 mg, 56%).

reactant | N-(2,4-dimethoxybenzyloxy)-3-[4-(4-fluorophenyl)piperazine-1-sulfonyl]-2-isobutylpropionamide | 220 mg | COC1=C(CONC(C(CS(=O)(=O)N2CCN(CC2)C2=CC=C(C=C2)F)CC(C)C)=O)C=CC(=C1)OC | C26H36FN3O6S
reactant | trifluoroacetic acid | 200 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 145 μl | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-hydroxy-3-[4-(4-fluorophenyl)piperazine-1-sulfonyl]-2-isobutylpropionamide | 88 mg, 56% | ONC(C(CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)F)CC(C)C)=O | C17H26FN3O4S
